US04421754
17.0 g of 1-benzoyl-4-bromobutane, 13.4 g of 1-(ethoxycarbonylamino)piperazine and 17.8 g of sodium hydrogen carbonate were heated under reflux in ethanol for 6 hours with stirring. The insoluble materials were removed from the reaction mixture by filtration. The solvent was distilled off, and water was added to the residue. The mixture was extracted with benzene. The extract was recrystallized from benzene-hexane to give 21.4 g of 4-(4-benzoylbutyl)-1-(ethoxycarbonylamino)-piperazine having a melting point of 105° to 106° C.

reactant | 1-benzoyl-4-bromobutane | 17.0 g | C(C1=CC=CC=C1)(=O)CCCCBr | C11H13BrO
reactant | 1-(ethoxycarbonylamino)piperazine | 13.4 g | C(C)OC(=O)NN1CCNCC1 | C7H15N3O2
reactant | sodium hydrogen carbonate | 17.8 g | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-benzoylbutyl)-1-(ethoxycarbonylamino)-piperazine | 21.4 g | C(C1=CC=CC=C1)(=O)CCCCN1CCN(CC1)NC(=O)OCC | C18H27N3O3
